US07989622B2
A mixture of N-(3-chloroquinoxalin-2-yl)-3-nitrobenzenesulfonamide (1 g), 2,6-dichloropyridin-4-amine (760 mg) and p-xylene (10 mL) was heated at 135° C. with stirring overnight. Upon cooling to room temperature, the mixture was dissolved in dichloromethane, washed with 2 N HCl (2×) and brine, concentrated in vacuo to give a crude product of N-{3-[(2,6-dichloropyridin-4-yl)amino]quinoxalin-2-yl}-3-nitrobenzenesulfonamide. A small portion of this crude product was purified by HPLC to give N-{3-[(2,6-dichloropyridin-4-yl)amino]quinoxalin-2-yl}-3-nitro-benzenesulfonamide. 1H NMR (400 MHz, DMSO) δ 9.71 (s, 1H), 8.90 (s, 1H), 8.50 (d, 2H), 8.8.41 (d, 1H), 8.30 (s, 2H), 7.88-7.78 (m, 27.65 (d, 1H), 7.47-7.37 (m, 2H); MS (EI) m/z for C19H12Cl2N6O4S: 491.1, 493.1 (MH+).

reactant | N-(3-chloroquinoxalin-2-yl)-3-nitrobenzenesulfonamide | 1 g | ClC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C14H9ClN4O4S
reactant | 2,6-dichloropyridin-4-amine | 760 mg | ClC1=NC(=CC(=C1)N)Cl | C5H4Cl2N2
reactant | p-xylene | 10 mL | CC=1C=CC(=CC1)C | C8H10
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-{3-[(2,6-dichloropyridin-4-yl)amino]quinoxalin-2-yl}-3-nitrobenzenesulfonamide | ClC1=NC(=CC(=C1)NC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-])Cl | C19H12Cl2N6O4S
